US07662771B2
Add 2-methyl-27-butene (7.0 mL) and sodium hypochlorite (2.51 g, 27.75 mmol) to a solution of 7-[4-(4-methoxyphenyl)thiazol-2-yl]heptanal (4.02 g, 13.25 mmol) and potassium dihydrogen phosphate (3.10 g, 22.78 mmol) in tert-butanol (60 mL) and water (12 mL) at room temperature. Stir the mixture for 40 minutes, dilute with ethyl acetate (500 mL) and wash with brine (3×200 mL). Dry the combined organic extracts over sodium sulfate and remove the solvent under reduced pressure. Purify the residue by flash column chromatography on silica gel, eluting with methanol/methylene chloride (1:19), and triturate the residue with hexanes/methylene chloride to afford 7-[4-(4-methoxyphenyl)thiazol-2-yl]heptanoic acid (3.91 g, 88%): APCI MS m/z 320 [C17H21NO3S+H]+.

reactant | sodium hypochlorite | 27.75 mmol, 2.51 g | Cl[O-].[Na+]
reactant | 7-[4-(4-methoxyphenyl)thiazol-2-yl]heptanal | 13.25 mmol, 4.02 g | COC1=CC=C(C=C1)C=1N=C(SC1)CCCCCCC=O | C17H21NO2S
reactant | potassium dihydrogen phosphate | 22.78 mmol, 3.10 g | P(=O)(O)(O)[O-].[K+]
solvent | tert-butanol | 60 mL | C(C)(C)(C)O | C4H10O
solvent | water | 12 mL | O | H2O
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 7-[4-(4-methoxyphenyl)thiazol-2-yl]heptanoic acid | 3.91 g, 88% | COC1=CC=C(C=C1)C=1N=C(SC1)CCCCCCC(=O)O | C17H21NO3S
